US05965741
2-Benzyloxy-3-phenylbenzyl alcohol was oxidised with manganese dioxide using a similar method to that described in Reference Example 29 to give 2-benzyloxy-3-phenylbenzaldehyde.

reactant | 2-Benzyloxy-3-phenylbenzyl alcohol | C(C1=CC=CC=C1)OC1=C(CO)C=CC=C1C1=CC=CC=C1 | C20H18O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 2-benzyloxy-3-phenylbenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1C1=CC=CC=C1 | C20H16O2
